US07074799B2
Stir the mixture of 1,4-dibromo-2-nitro-benzene (3.56 mmol)and CuCN (3.74 mmol) in DMA (4 ml) at 100° C. for 5hours. Cool to room temperature, dilute with EtOAc, filter through celite, wash the organic layer with brine, dry over Na2SO4, and concentrate under vacuum. Purify the residue by flash chromatography (4:1 hexanes/EtOAc) to give 4-bromo-2-nitro-benzonitrile.

reactant | 1,4-dibromo-2-nitro-benzene | 3.56 mmol | BrC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
reactant | CuCN | 3.74 mmol | C(#N)[Cu]
solvent | DMA | 4 ml | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-bromo-2-nitro-benzonitrile | BrC1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C7H3BrN2O2
